US05387684
Triethyl phosphite (5.8 ml, 34 mmol) was added to ethyl N-(5-methyl-2-nitrobenzylidene)anthranilate (3.10 g, 9.93 mmol) as obtained in Reference Example 2. The mixture was refluxed under heating for 4 hours, and the triethyl phosphite was evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel using a mixed solvent of hexane/ethyl acetate (5:1), whereby 1.79 g of ethyl 2-(5-methyl-2H-indazol-2-yl)benzoate was obtained.

reactant | Triethyl phosphite | 34 mmol, 5.8 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | ethyl N-(5-methyl-2-nitrobenzylidene)anthranilate | 9.93 mmol, 3.10 g | CC=1C=CC(=C(C=NC=2C(C(=O)OCC)=CC=CC2)C1)[N+](=O)[O-] | C17H16N2O4
product | ethyl 2-(5-methyl-2H-indazol-2-yl)benzoate | 1.79 g | CC1=CC2=CN(N=C2C=C1)C1=C(C(=O)OCC)C=CC=C1 | C17H16N2O2
